US04745169
(a) Synthesis of chlorodimethyl-p-methoxybenzylsilane
In a 2-liter three-neck flask equipped with a stirrer, reflux condenser, dropping funnel, and thermometer were placed 31.0 g (1.28 mol) of magnesium powder, 129 g (1 mol) of dimethyldichlorosilane, and 500 ml of diethyl ether. With the flask cooled below 10° C., a mixture of 100 g (0.639 mol) of p-methoxybenzyl chloride and 250 ml of diethyl ether was added dropwise from the dropping funnel over 4 hours. After aging at room temperature for 1 hour, excess magnesium and magnesium chloride were removed by suction filtration. The filtrate was distilled to give 87.8 g (0.409 mol) of the desired product in a 64.0% yield.

reactant | magnesium | 1.28 mol, 31.0 g | [Mg] | Mg
reactant | dimethyldichlorosilane | 1 mol, 129 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | p-methoxybenzyl chloride | 0.639 mol, 100 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | chlorodimethyl-p-methoxybenzylsilane | 0.409 mol, 87.8 g, 64.0% yield | Cl[Si](CC1=CC=C(C=C1)OC)(C)C | C10H15ClOSi
